US07541372B2
4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using isonicotinic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane:methanol=40:50:10:0 to 0:90:0:10, 57 mg, 20%) which was obtained as a white foam. MS: m/e=305.3 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
product | 4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 57 mg, 20% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=CC=NC=C1 | C17H12N4O2
